US07101856B2
a) 3-Hydroxy-thiophene-2-carboxylic acid
600 mg of 3,4,5-triacetoxy-6-(2-benzylcarbamoyl-thiophen-3-yloxy)-tetrahydro-pyran-2-ylmethyl acetate were dissolved in 40 ml of methanol, and 1.40 ml of a 30% strength methanolic sodium methanolate solution were added. The reaction mixture was stirred at 22° C. for 2 h, neutralized with 0.5 molar methanolic HCl solution and concentrated. The crude product was purified by column chromatography (SiO2, ethyl acetate/methanol=10:1).

reactant | 3,4,5-triacetoxy-6-(2-benzylcarbamoyl-thiophen-3-yloxy)-tetrahydro-pyran-2-ylmethyl acetate | 600 mg | C(C)(=O)OCC1OC(C(C(C1OC(C)=O)OC(C)=O)OC(C)=O)OC1=C(SC=C1)C(NCC1=CC=CC=C1)=O | C26H29NO11S
reactant | sodium methanolate | C[O-].[Na+]
reactant | HCl | 0.5 molar | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 3-Hydroxy-thiophene-2-carboxylic acid | OC1=C(SC=C1)C(=O)O | C5H4O3S
